US04402969
A. t-Butyl N-chlorocarbonyl-L-prolinate
A solution of 0.961 g (5.62 mmol) of t-butyl prolinate and 0.80 ml (5.76 mmol) of triethylamine in 4.2 ml of dry tetrahydrofuran was added dropwise to a stirring solution of phosgene in toluene (12.5%, 5.9 ml, 6.74 mmol) precooled to 0°. The reaction was allowed to warm to room temperature and stirred for an additional hour. After filtering and concentrating, a yellow oil was obtained which was used directly for the next step, B.

reactant | t-butyl prolinate | 5.62 mmol, 0.961 g | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
reactant | triethylamine | 5.76 mmol, 0.80 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 6.74 mmol, 5.9 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 4.2 ml | O1CCCC1 | C4H8O
product | t-Butyl N-chlorocarbonyl-L-prolinate | ClC(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C10H16ClNO3
